US04650805
Ethyl N-propylnipecotate (73.86 g) was dissolved in 500 ml ethanol, treated with lithium hydroxide monohydrate (15.57 g) at reflux for 24 hours. Upon evaporation and drying in vacuo (100° C., eight hours), lithium N-propylnipecotate was obtained (white powder; 60 g). A solution of 17.7 g of this salt in 200 ml THF was treated dropwise with one equivalent of methyl-lithium, at 0° C. After stirring at room temperature overnight, an aqueous work-up yielded 3-acetyl-N-propylpiperidine (mp of HCl salt 108°-111° C.). When 2.5 of this compound were intimately mixed with 2.28 g of thiourea and 3.81 g of iodine and heated on a steam bath for 24 hours, followed by a column chromatography (Silica; acetone) and salt formation by the procedure of Example 2, 1.75 g of 4-(1-propyl-3-piperidyl)-2-thiazolamine hydrochloride (mp 243°-248° C.) were obtained.

reactant | Ethyl N-propylnipecotate | 73.86 g | C(CC)N1CC(C(=O)OCC)CCC1 | C11H21NO2
reactant | lithium hydroxide monohydrate | 15.57 g | O.[OH-].[Li+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | lithium N-propylnipecotate | C(CC)N1CC(C(=O)[O-])CCC1.[Li+] | InChI=1S/C9H17NO2.Li/c1-2-5-10-6-3-4-8(7-10)9(11)12;/h8H,2-7H2,1H3,(H,11,12);/q;+1/p-1
